US09353107B2
Step-ii: N-(3-(3-(1-(3-chlorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(3-(3-(1-(3-chlorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methane sulfonamide (90 mg, 0.14 mmol) was hydrolyzed with lithium hydroxide (18 mg, 0.42 mmol) in THF/water/methanol (1/0.5/1 ml) mixture to afford 12 mg (18% yield) of the pure product after purification by preparative TLC (Silicagel-1000 micron) using 10% ethyl acetate in hexane as eluent. 1H NMR (DMSO-d6, 400 MHz): δ 11.83 (s, 1H), 9.85 (s, 1H), 8.48-8.47 (d, 1H), 8.43 (s, 1H), 8.346-8.342 (d, 1H), 7.90 (s, 1H), 7.80-7.79 (d, 1H), 7.51-7.25 (m, 8H), 5.40 (s, 2H), 3.06 (s, 3H). MS: m/z=478.2 (M+1), HPLC: 92.01% (method B).

reactant | N-(3-(3-(1-(3-chlorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methane sulfonamide | 0.14 mmol, 90 mg | ClC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=C(C=CC3)NS(=O)(=O)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C31H26ClN5O4S2
reactant | lithium hydroxide | 0.42 mmol, 18 mg | [OH-].[Li+]
solvent | THF water methanol | 1 ml | C1CCOC1.O.CO
product | N-(3-(3-(1-(3-chlorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide | 12 mg, 18% yield | ClC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=C(C=CC3)NS(=O)(=O)C)C=CC1 | C24H20ClN5O2S
